US07799822B2
Prepared using general procedure 31. A mixture of 4-bromo-N-(thiazol-2-yl)benzenesulfonamide (4.70 g, 14.7 mmol), pyrrolidine-3-carboxylic acid (3.66 g, 22.1 mmol, 1.5 eq.), NaO-t-Bu (7.62 g, 79.3 mmol, 5.4 eq.), 2-(dicyclohexylphosphino)-2′,6′-dimethoxybiphenyl (0.722 g, 1.76 mmol, 12 mol %) and tris(dibenzylideneacetone)-dipalladium (0.40 g, 3 mol %) in toluene (45 mL) was heated at 100° C. for 20 hours. The brown suspension was cooled to room temperature. Purification via silica gel chromatography using 1-10% MeOH in CH2Cl2 gave 1-(4-(N-thiazol-2-ylsulfamoyl)-phenyl)pyrrolidine-3-carboxylic acid (2.26 g, 43%). 1H NMR (300 MHz, DMSO-d6): δ 7.55 (d, J=8 Hz, 2H); 7.17 (dd, J=4.7, 1.1 Hz, 1H); 6.73 (dd, J=4.7, 1.1 Hz, 1H); 6.55 (d, J=8 Hz, 2H); 3.50-3.23 (m, 4H, partly obscured by water from DMSO-d6); 3.20-3.15 (m, 1H); 2.23-2.09 (m, 2H).

reactant | 4-bromo-N-(thiazol-2-yl)benzenesulfonamide | 14.7 mmol, 4.70 g | BrC1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1 | C9H7BrN2O2S2
reactant | pyrrolidine-3-carboxylic acid | 22.1 mmol, 3.66 g, 1.5 eq. | N1CC(CC1)C(=O)O | C5H9NO2
reactant | NaO-t-Bu | 79.3 mmol, 7.62 g, 5.4 eq. | O([Na])C(C)(C)C
reactant | 2-(dicyclohexylphosphino)-2′,6′-dimethoxybiphenyl | 1.76 mmol, 0.722 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | toluene | 45 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)-dipalladium | 0.40 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-(4-(N-thiazol-2-ylsulfamoyl)-phenyl)pyrrolidine-3-carboxylic acid | 2.26 g, 43% | S1C(=NC=C1)NS(=O)(=O)C1=CC=C(C=C1)N1CC(CC1)C(=O)O | C14H15N3O4S2
